US08026370B2
3-butoxypropyl 4-methylbenzenesulfonic acid
3-Butoxy propan-1-ol (3.15 g) synthesized in Reference Example 44 was dissolved in dichloromethane (80 mL), triethylamine (6.6 mL), p-toluenesulfonyl chloride (6.82 g) and 4-dimethylaminopyridine (0.29 g) were added thereto, and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, and the organic layer was separated and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (elution solvent; hexane:ethyl acetate=3:1) to give the title compound (4.46 g) as a colorless oil.

reactant | 3-Butoxy propan-1-ol | 3.15 g | C(CCC)OCCCO | C7H16O2
reactant | triethylamine | 6.6 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 6.82 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | O | H2O
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.29 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-butoxypropyl 4-methylbenzenesulfonic acid | 4.46 g | C(CCC)OCCCC1=C(C=CC(=C1)C)S(=O)(=O)O | C14H22O4S
